US07547701B2
(R)-tert-Butoxycarbonylamino-3-(pyrazin-2-ylmethanesulfonyl)propionic acid (1.42 g, 4.53 mmol) was dissolved in mixture of MeOH (10 mL) and toluene (33 mL) and Me3SiCHN2 (2.0 M solution in hexanes, 3.06 ml) was added dropwise over 10 min. After stirring the reaction mixture overnight, the solvent was removed and the resulting residure was purified by flash chromatography with EtOAc/hexanes as eluent to afford methyl 2(R)-tert-butoxycarbonylamino-3-(pyrazin-2-ylmethanesulfonyl)propionate (0.755 g).

reactant | (R)-tert-Butoxycarbonylamino-3-(pyrazin-2-ylmethanesulfonyl)propionic acid | 4.53 mmol, 1.42 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CS(=O)(=O)CC1=NC=CN=C1 | C13H19N3O6S
reactant | MeOH | 10 mL | CO | CH4O
solvent | toluene | 33 mL | C1(=CC=CC=C1)C | C7H8
solvent | Me3SiCHN2 | 2.0 M, 3.06 ml | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
product | methyl 2(R)-tert-butoxycarbonylamino-3-(pyrazin-2-ylmethanesulfonyl)propionate | 0.755 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CS(=O)(=O)CC1=NC=CN=C1 | C14H21N3O6S
